US04237278
2-Methyl-5-[2-(2-hydroxy-3-cyclopropylamino-propoxy)-styryl]-1,3,4-thiadiazole
3.8 g (0.014 mole) of 2-methyl-5-[2-(2,3-epoxypropoxy)-styryl]-1,3,4-thiadiazole and 1.0 g (0.018 mole) of cyclopropylamine are reacted by the method described in Example 1. 2.2 g (48% of theory) of yellow crystals are obtained from toluene; melting point 144°-145° C.

reactant | 2-methyl-5-[2-(2,3-epoxypropoxy)-styryl]-1,3,4-thiadiazole | 0.014 mole, 3.8 g | CC=1SC(=NN1)C=CC1=C(C=CC=C1)OCC1CO1 | C14H14N2O2S
reactant | cyclopropylamine | 0.018 mole, 1.0 g | C1(CC1)N | C3H7N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-5-[2-(2-hydroxy-3-cyclopropylamino-propoxy)-styryl]-1,3,4-thiadiazole | CC=1SC(=NN1)C=CC1=C(C=CC=C1)OCC(CNC1CC1)O | C17H21N3O2S
